Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Augmentin
 
Attending: ___
 
Chief Complaint:
Jaundice
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
 Ms. ___ is a ___ with GERD, COPD, HTN, HLD, and Lyme disease 
who presents with jaundice and pruritus.  
 Her symptoms all began the first week of ___. She 
initially had severe pruritus, eventually was told by co-workers 
that she 'looked yellow.' Her PCP, after checking labs and 
finding Tbili 12, sent her to ___. She was 
hospitalized ___, and reportedly had normal CT/MRCP. She 
was told that she had acute hepatitis due to drug toxicity 
(?Augmentin she had taken ___ in setting of 
laryngoscopy/polypectomy).  

 Patient had repeat labs after discharge from ___, and was 
found to have worsening Tbili (23). Her PCP started ___ 
20mg qd last week due to 1:40 SMA. There has been no improvement 
in her symptoms, though Tbili has downtrended to 16. 
Transaminases have been slightly elevated (AST 51, ALT 69, 
AlkPhos 348). Patient has not yet followed up with GI at ___ 
___, and she was supposed to have liver biopsy at ___. 
___ on ___. Patient presents to ___ for a second 
opinion.  

 
Past Medical History:
 - Dysplastic vocal cord polyp resected ___
 - Tobacco use (~45 pack-years)
 - Alcohol use (~5 drinks nightly)
 - ?COPD  
 - GERD  
 - CCY  
 - Lyme Disease  
 - D&C in setting of AUB  
 - HLD  
 - HTN  

 
Social History:
___
Family History:
 Father stroke passed at ___, Mother thyroid cancer/T2DM now ___, 
Brother esophageal cancer passed at 56  

 
Physical Exam:
ADMISSION EXAM
==================
 Vital Signs: 97.9 74 137/63 16 98% RA  
 General: Alert, irritable, no acute distress. Appears older 
than stated age.  
 HEENT: +Scleral icterus. MMM, oropharynx clear, EOMI, PERRL.  
 Neck: Supple. JVP not elevated. no LAD  
 CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft. Currently non-tender, non-distended, bowel 
sounds present, no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII grossly intact, ___ strength upper/lower 
extremities. No asterixis.  
 Skin: Diffuse excoriations across all skin surfaces. Jaundiced. 
Telangiectasias across upper back.  
 Psych: Labile affect; she is alternatively tearful, angry, and 
affable over a short period of time. Linear thought process.  

DISCHARGE EXAM
===================
Vital Signs: 98.8, 123/71, 62, 16 98 RA 
General: Alert, jaundiced, NAD. Appears older than stated age.  
HEENT: +icterus. MMM.
CV: RRR, no m/r/g.
Lungs: Non-labored. CTAB. 
Abdomen: Soft, distended, non-tender.
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: A&O.
Skin: Diffuse excoriations across all skin surfaces. Jaundiced. 
No spider angiomata or palmar erythema.

 
Pertinent Results:
ADMISSION LABS
===================
___ 07:08PM BLOOD WBC-10.6* RBC-2.32* Hgb-7.6* Hct-21.9* 
MCV-94 MCH-32.8* MCHC-34.7 RDW-21.2* RDWSD-73.1* Plt ___
___ 07:08PM BLOOD Neuts-85.4* Lymphs-8.1* Monos-5.3 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-9.01* AbsLymp-0.86* 
AbsMono-0.56 AbsEos-0.01* AbsBaso-0.01
___ 07:08PM BLOOD ___ PTT-27.4 ___
___ 02:40PM BLOOD Glucose-201* UreaN-30* Creat-1.2* Na-140 
K-4.5 Cl-106 HCO3-19* AnGap-20
___ 02:40PM BLOOD ALT-73* AST-57* AlkPhos-341* 
TotBili-10.9* DirBili-7.7* IndBili-3.2
___ 04:50AM BLOOD Albumin-3.0* Calcium-9.0 Phos-3.5 Mg-1.7 
Iron-130

___ 12:21PM URINE Color-Amber Appear-Hazy Sp ___
___ 12:21PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-MOD Urobiln-2* pH-6.0 Leuks-NEG
___ 12:21PM URINE RBC-<1 WBC-2 Bacteri-FEW Yeast-NONE 
Epi-<1 TransE-<1
___ 12:21PM URINE CastHy-5*

CHOLESTASIS WORKUP
=================
___ 06:40AM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-Negative HAV Ab-Negative IgM HAV-Negative
___ 06:40AM BLOOD HCV Ab-Negative
___ 06:40AM BLOOD AMA-NEGATIVE
___ 04:50AM BLOOD Smooth-NEGATIVE
___ 06:40AM BLOOD CEA-8.3* AFP-2.3
___ 04:50AM BLOOD IgG-483* IgA-146 IgM-111
___ 04:50AM BLOOD IGG SUBCLASSES 1,2,3,4-Test   
___ 06:40AM BLOOD TSH-3.2
___ 06:40AM BLOOD Free T4-1.2
___ 12:21PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
   
ANEMIA WORKUP
=================
___ 06:40AM BLOOD Hypochr-2+ Anisocy-1+ Poiklo-1+ 
Macrocy-1+ Microcy-NORMAL Polychr-1+ Ovalocy-1+ 
Target-OCCASIONAL
___ 04:50AM BLOOD Ret Aut-5.4* Abs Ret-0.12*
___ 06:40AM BLOOD VitB12-874 Folate-16 Hapto-81
___ 04:50AM BLOOD calTIBC-254* Ferritn-461* TRF-195*

DISCHARGE LABS
=================
___ 05:00AM BLOOD WBC-8.8 RBC-2.29* Hgb-7.5* Hct-23.3* 
MCV-102* MCH-32.8* MCHC-32.2 RDW-18.4* RDWSD-67.8* Plt ___
___ 05:00AM BLOOD Glucose-109* UreaN-22* Creat-1.3* Na-141 
K-4.5 Cl-106 HCO3-23 AnGap-17
___ 05:00AM BLOOD ALT-76* AST-46* AlkPhos-242* TotBili-7.2*
___ 05:00AM BLOOD Calcium-8.7 Phos-3.5 Mg-1.7

MICROBIOLOGY
=================
See above for viral serologies
No cultures drawn

IMAGING & STUDIES
=================
___ OPINION MR TORSO
IMPRESSION:  
1.  Status post cholecystectomy.  No intrahepatic or 
extrahepatic biliary duct dilatation. 
2.  3 cm left adrenal adenoma.

 
Brief Hospital Course:
Patient is a ___ female with a past medical history of 
COPD and recent elevation in her LFTs, particularly her total 
bilirubin, who presents for evaluation of painless jaundice and 
pruritus.

The patient was recently evaluated at ___. Records 
from that admission were reviewed and were significant for 
downtrending transaminitis and normal MRCP. There was concern 
that her transaminitis was from a drug-induced liver injury 
possibly in the setting of taking Augmentin, Tylenol, NSAIDs, 
and/or alcohol use. Given her continued improvement this seems 
like a reasonable diagnosis and further workup was deferred. She 
was started on ursodiol and cholestyramine for pruritus. 
Prednisone was stopped as we feel it is less likely that this 
represents an autoimmune hepatitis.

Had incidental findings on OSH imaging to be followed up by PCP.

Transitional issues:
[] Patient should have LFTs checked before ___ to 
ensure that they continue to improve.
[] Recommend listing Augmentin as a possible allergy since most 
plausible culprit for her liver injury.
[] Patient should have full workup of anemia (would resend iron 
studies once liver inflammation has resolved) including 
colonoscopy if not up to date.
[] Needs HBV and HAV vaccines
[] Has dysplastic vocal cord polyp that should be followed up as 
an outpatient as well as incidental lung nodules and adrenal 
mass
[] Consider PFTs and controller medication for COPD

# CODE: Full (presumed)
# CONTACT: Next of Kin: ___ Phone: ___  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 50 mg PO DAILY 
2. Nicotine Patch 21 mg TD DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Potassium Chloride 20 mEq PO DAILY 
5. PredniSONE 20 mg PO DAILY 
6. Thiamine 100 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. budesonide-formoterol 160-4.5 mcg/actuation inhalation BID 
9. HydrOXYzine 50 mg PO Q6H 
10. MetFORMIN (Glucophage) 500 mg PO BID 

 
Discharge Medications:
1.  Cholestyramine 4 gm PO BID 
RX *cholestyramine (with sugar) 4 gram 1 powder(s) by mouth 
Twice a day Refills:*1 
2.  Sarna Lotion 1 Appl TP QID pruritis 
RX *camphor-menthol [Sarna Anti-Itch] 0.5 %-0.5 % Apply to skin 
Up to 4 times a day Refills:*10 
3.  Ursodiol 300 mg PO TID 
RX *ursodiol 300 mg 1 capsule(s) by mouth Three times a day Disp 
#*90 Capsule Refills:*1 
4.  budesonide-formoterol 160-4.5 mcg/actuation inhalation BID  
5.  HydrOXYzine 50 mg PO Q6H  
6.  MetFORMIN (Glucophage) 500 mg PO BID  
7.  Metoprolol Succinate XL 50 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Nicotine Patch 21 mg TD DAILY  
10.  Omeprazole 20 mg PO DAILY  
11.  Potassium Chloride 20 mEq PO DAILY  
12.  Thiamine 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
===================
Drug-induced liver injury
Elevated bilirubin with jaundice and pruritus

SECONDARY:
=================
Anemia
Chronic obstructive pulmonary disease
Tobacco use disorder
Gastroesophageal reflux disease
Type 2 diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because you had elevated liver 
enzymes.  Specifically your bilirubin level was quite high.  We 
monitor your liver tests and since they were improving without 
any intervention. As a result, it was not necessary to do a 
liver biopsy. 

It seems most likely that you suffered some liver damage from a 
combination of medications including antibiotics, Tylenol, 
NSAIDs (such as ibuprofen), and alcohol use. We recommend that 
you list Augmentin (Amoxicillin Trihydrate/Potassium 
Clavulanate) as one of your possible medication allergies.

You should be cautious about starting any new medications until 
your liver tests have returned to normal.  You should also 
abstain from alcohol.

We stopped your prednisone because we think it is less likely 
that you have autoimmune liver disease.  We started a medication 
called ursodiol for your itching.

On your outside imaging, you also had incidental findings that 
will need to be followed up by your primary care physician such 
as lung nodules, adrenal lesion and vocal cord polyp.

You can follow-up with your primary care doctor and outpatient 
gastroenterologists as previously scheduled.  If you wish to 
schedule an appointment at the ___ hepatology office, you can 
call ___.

It was a pleasure taking care of you.

Sincerely,
Your ___ care team
 
Followup Instructions:
___